US07820665B2
4-Acetyl-N-(5-bromo-2-chloropyridin-3-yl)benzenesulfonamide (540.2 mg, 1.386 mmol) was suspended in EtOH (5.0 mL) and titanium (IV) isopropoxide (0.82 mL, 2.8 mmol) and methylamine (4.2 mL, 8.4 mmol, 2.0 M in THF) were added. The reaction was stirred at room temperature overnight. Then, sodium borohydride (95.7 mg, 2.53 mmol) was added, and the reaction was stirred at room temperature for 30 minutes, and then water (10 mL) and ca. 7 N ammonia in MeOH (2.9 mL) were added simultaneously via syringe, causing precipitation. The reaction was stirred at room temperature, and after 45 minutes, the reaction contents were filtered. The solid was washed with EtOAc and MeOH, and the filtrate was concentrated and purified using silica gel with 20:1 DCM/MeOH to 3:1 DCM/2 N ammonia in MeOH to afford N-(5-bromo-2-chloropyridin-3-yl)-4-(1-(methylamino)ethyl)benzenesulfonamide (488 mg, 87% yield). MS (ESI positive ion) m/z: 404 (M+1, 79Br), 406 (M+1, 81Br). Calcd. for C14H15BrClN3O2S: 403 (79Br), 405 (81Br).

reactant | 4-Acetyl-N-(5-bromo-2-chloropyridin-3-yl)benzenesulfonamide | 1.386 mmol, 540.2 mg | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Br)Cl | C13H10BrClN2O3S
reactant | methylamine | 8.4 mmol, 2.0 M, 4.2 mL | CN | CH5N
reactant | sodium borohydride | 2.53 mmol, 95.7 mg | [BH4-].[Na+]
reactant | ammonia | ca. 7 N | N | H3N
solvent | EtOH | 5.0 mL | CCO | C2H6O
solvent | MeOH | 2.9 mL | CO | CH4O
catalyst | titanium (IV) isopropoxide | 2.8 mmol, 0.82 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | 10 mL | O | H2O
product | N-(5-bromo-2-chloropyridin-3-yl)-4-(1-(methylamino)ethyl)benzenesulfonamide | 488 mg, 87% yield | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C(C)NC | C14H15BrClN3O2S
